US08097628B2
A mixture of (6-chloro-5-methyl-3-pyridinyl)methanol (300 mg, 1.904 mmol), CrO2 (Magtrieve) (2.398 g, 28.5 mmol), and DCM (15 ml) was stirred at 40° C. in a closed tube overnight. TLC showed some starting material remaining. Additional CrO2 (0.8 g) was added. After heating 4 additional hours, TLC showed full conversion. Filtration and concentration afforded 6-chloro-5-methyl-3-pyridinecarbaldehyde (204.8 mg, 69%) as a white solid.

reactant | (6-chloro-5-methyl-3-pyridinyl)methanol | 1.904 mmol, 300 mg | ClC1=C(C=C(C=N1)CO)C | C7H8ClNO
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-5-methyl-3-pyridinecarbaldehyde | 204.8 mg, 69% | ClC1=C(C=C(C=N1)C=O)C | C7H6ClNO
